US05244908
Synthesis of 5-[2-(methylsulfonylamino)ethylthio]3-morpholinomethylimidazo[1,2-a]pyridine (Compound 14)
To a solution of 37% formalin (178 mg, 2.2 mmoles) in acetic acid (2 ml) was added morpholin (192 μl, 2.2 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. 5-[2-(methylsulfonylamino)ethylthio] imidazo[1,2-a]pyridine (543 mg, 2 mmoles) was added to the reaction mixture, followed by stirring at 60° C. for 2 hours. After the solvent was distilled off, the residue was dissolved in chloroform (50 ml) and washed with 1N NaOH (10 ml). Then, the aqueous layer was extracted with chloroform (30 ml×3) and the combined chloroform layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethanol/ethyl acetate=1:10→1:5) to obtain 530 mg of the desired product (71.5%, colorless solid).

reactant | formalin | 2.2 mmoles, 178 mg | C=O | CH2O
reactant | morpholin | 2.2 mmoles, 192 μl | N1CCOCC1 | C4H9NO
reactant | 5-[2-(methylsulfonylamino)ethylthio] imidazo[1,2-a]pyridine | 2 mmoles, 543 mg | CS(=O)(=O)NCCSC1=CC=CC=2N1C=CN2 | C10H13N3O2S2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-[2-(methylsulfonylamino)ethylthio]3-morpholinomethylimidazo[1,2-a]pyridine | 530 mg, 71.5% | CS(=O)(=O)NCCSC1=CC=CC=2N1C(=CN2)CN2CCOCC2 | C15H22N4O3S2
